US08859566B2
1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.222 g, 0.62 mmol) was dissolved in a mixture of solvents Methanol:water (3:1, 5 ml) and KOH (0.07 g, 125 mmol) was added to the reaction mixture and then stirred at 50-55° C. for 3 hours. Solvents were removed and the residue was diluted with water (3 ml) and washed with DCM (3×10 ml) and acidified with dil. HCl. It was extracted with ethyl acetate (3×15 ml), organic layers were mixed and washed with brine (20 ml), dried over Na2SO4 and evaporated to dryness to obtain 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid (0.18 g, 90%) as a brownish sticky mass.

reactant | 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.62 mmol, 0.222 g | C(C)OC(=O)C=1C=NN(C1)CC1CN(C(C1)=O)C1=C(C=C(C=C1)F)F | C17H17F2N3O3
reactant | KOH | 125 mmol, 0.07 g | [OH-].[K+]
solvent | Methanol water | 5 ml | CO.O
product | 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid | 0.18 g, 90% | FC1=C(C=CC(=C1)F)N1CC(CC1=O)CN1N=CC(=C1)C(=O)O | C15H13F2N3O3
